* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1614-1.3.asc
* Generated by LTspice 24.1.9 for Windows.
R3 N002 0 10k
R4 OUT N002 71.5k
V1 IN 0 5
L1 IN N001 15µ Rser=200m
C2 OUT 0 33µ Rser=2m
C3 N006 0 33n
Rload OUT 0 20
D1 N001 OUT MBRS340
R2 N003 0 60.4k
C1 N004 0 47n
R1 N005 N006 12.1k
C4 N005 0 10p
X§U1 N005 N002 IN 0 MP_01 N001 MP_02 IN N003 N004 ADP1614-1.3
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 8m startup
.lib ADP1614-1.3.sub
.backanno
.end
