* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP172-0.9.asc
* Generated by LTspice 24.1.9 for Windows.
C1 OUT 0 1µ
V1 IN 0 3.6
RLOAD OUT 0 3
X§U1 OUT IN IN 0 ADP172-0.9
.tran 2m startup
.lib ADP172-0.9.sub
.backanno
.end
