* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP1761-1.2.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N004 0 1µ
C2 N003 0 10n
V1 IN 0 1.4
R2 N001 IN 50K
C3 N002 0 1µ
R1 OUT 0 1.5
C4 OUT 0 10µ
X§U1 N002 IN IN OUT OUT N001 0 N003 N004 N005 ADP1761 Radj=8K
.tran 1m startup
.lib ADP1761.sub
.backanno
.end
