* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2118-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N002 OUT 1µ
C1 OUT 0 100µ
R1 OUT N001 100K
V1 IN 0 5
X§U1 IN IN IN OUT 0 0 N002 IN IN IN N001 ADP2118-x.x Rtop=600k Rbot=400k Ctop=4p
Rload OUT 0 .5
.tran 2m startup
.lib ADP2118-x.x.sub
.backanno
.end
