* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2119-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N002 OUT 1.5µ
C1 OUT 0 22µ
R1 OUT N001 100K
V1 IN 0 5
Rload OUT 0 1.5
C2 OUT 0 10µ
X§U1 IN IN N002 0 0 OUT IN N001 IN IN ADP2119-1.5
.tran 1m
.lib ADP2119-1.5.sub
.backanno
.end
