* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP2166-1.0.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N008 0 2n
L1 N004 OUT .47µ Rser=6m
C2 N003 N004 .1µ
C3 OUT 0 90µ Rser=2m
R1 N005 0 100K
C5 N006 0 820p
R2 N007 N006 27.4K
V1 IN 0 5
R3 OUT N001 100K
C4 N002 0 1µ
C6 N007 0 1p
Rload OUT 0 .2
X§U1 N002 N005 N002 OUT 0 0 N004 IN IN IN N001 N008 N007 N003 N002 ADP2166-x.x Rtop=400K Rbot=600K
.tran 1m startup
.lib ADP2166-x.x.sub
.backanno
.end
